### PR TITLE
[Merged by Bors] - feat: `Polynomial.coeffList`

### PR DESCRIPTION
**Pull request by Timeroot**
`Polynomial.coeffList` is the list of coefficients, in descending order from leading term to constant term. (The zero polynomial has coeffList of `[]`). The PR defines coeffList and proves some basic facts, notably relating `P.coeffList` to `P.eraseLead.coeffList`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #9082 
- [x] depends on: #9083

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/EraseLead.lean [hunk 1]
```diff
@@ -253,6 +274,61 @@ theorem nextCoeff_eq_zero_of_eraseLead_eq_zero (h : f.eraseLead = 0) : f.nextCoe
...
+    have h₀ : f.eraseLead.natDegree = 0 :=
+      nonpos_iff_eq_zero.mp (tsub_eq_zero_of_le (le_refl 1) ▸ h₃ ▸ eraseLead_natDegree_le f)
+    rw [nextCoeff, h₃, if_neg one_ne_zero, tsub_self] at h₂
+    rw [eq_C_of_natDegree_eq_zero h₀, eraseLead_coeff_of_ne, h₂] at h₁
+    · simp at h₁
+    · simp [h₃]
+  · exact h₃
+
+theorem ne_zero_eraseLead_of_nz_nextCoeff (h : f.nextCoeff ≠ 0) : f.eraseLead ≠ 0 :=
+  leadingCoeff_ne_zero.mp (leadingCoeff_eraseLead_eq_nextCoeff h ▸ h)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/EraseLead.lean:330]:
```suggestion
  mt nextCoeff_eq_zero_of_eraseLead_eq_zero h
```

File: Mathlib/Algebra/Polynomial/EraseLead.lean [hunk 2]
```diff
@@ -253,6 +274,61 @@ theorem nextCoeff_eq_zero_of_eraseLead_eq_zero (h : f.eraseLead = 0) : f.nextCoe
...
+  · by_contra
+    have h₀ : f.eraseLead.natDegree = 0 :=
+      nonpos_iff_eq_zero.mp (tsub_eq_zero_of_le (le_refl 1) ▸ h₃ ▸ eraseLead_natDegree_le f)
+    rw [nextCoeff, h₃, if_neg one_ne_zero, tsub_self] at h₂
+    rw [eq_C_of_natDegree_eq_zero h₀, eraseLead_coeff_of_ne, h₂] at h₁
+    · simp at h₁
+    · simp [h₃]
+  · exact h₃
+
+theorem ne_zero_eraseLead_of_nz_nextCoeff (h : f.nextCoeff ≠ 0) : f.eraseLead ≠ 0 :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/EraseLead.lean:329]:
```suggestion
theorem eraseLead_ne_zero_of_nextCoeff_ne_zero (h : f.nextCoeff ≠ 0) : f.eraseLead ≠ 0 :=
```

File: Mathlib/Order/Defs/Unbundled.lean [hunk 3]
```diff
@@ -57,6 +57,12 @@ instance {α : Sort*} {r : α → α → Prop} [IsTrans α r] : Trans r r r :=
 instance (priority := 100) {α : Sort*} {r : α → α → Prop} [Trans r r r] : IsTrans α r :=
   ⟨fun _ _ _ => Trans.trans⟩
 
+/-- `IsCotrans X r` means the binary relation `r` on `X` is cotransitive. A cotransitive
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Defs/Unbundled.lean:60]: Are the changes in this file necessary? If not, please split out

File: Mathlib/Algebra/Polynomial/EraseLead.lean [hunk 4]
```diff
@@ -253,6 +274,61 @@ theorem nextCoeff_eq_zero_of_eraseLead_eq_zero (h : f.eraseLead = 0) : f.nextCoe
   by_contra h₂
   exact leadingCoeff_ne_zero.mp (leadingCoeff_eraseLead_eq_nextCoeff h₂ ▸ h₂) h
 
+theorem eraseLead_natDegree_of_nextCoeff (h : f.nextCoeff ≠ 0) :
+    f.natDegree = f.eraseLead.natDegree + 1 := by
+  have hpos := natDegree_pos_of_nextCoeff_ne_zero h
+  suffices f.natDegree - 1 ≤ f.eraseLead.natDegree by
+    have := (add_le_add_iff_right 1).mpr this
+    rw [Nat.sub_add_cancel hpos] at this
+    have : f.natDegree ≥ f.eraseLead.natDegree + 1 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Polynomial/EraseLead.lean:283]: le

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks! A first batch of comments below - please don't take them as discouraging.

File: Mathlib/Data/List/Basic.lean [hunk 5]
```diff
@@ -793,6 +793,17 @@ theorem ext_getElem! [Inhabited α] (hl : length l₁ = length l₂) (h : ∀ n
...
+theorem ext_get! [Inhabited α] (hl : length l₁ = length l₂)
+    (h : ∀ n, get! l₁ n = get! l₂ n) : l₁ = l₂ :=
+  ext_get? fun n ↦ match h₃ : get? l₁ n, h₄ : get? l₂ n with
+      | none, none => rfl
+      | none, some _ =>
+        (not_lt_of_ge (get?_eq_none_iff.mp h₃) (hl ▸ (get?_eq_some_iff.mp h₄).1)).elim
+      | some _, none =>
+        (not_lt_of_ge (get?_eq_none_iff.mp h₄) (hl ▸ (get?_eq_some_iff.mp h₃).1)).elim
+      | some _, some _ => congrArg _ ((get!_of_get? h₃) ▸ (get!_of_get? h₄) ▸ h n)
+
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Data/List/Basic.lean:806]: Oops, yes. I was using it an earlier draft, but (since get! is now not used the same way in Mathlib) in my cleanup I no longer needed it.

File: Mathlib/Order/Defs/Unbundled.lean (hunk 3 above)
Comment (Timeroot) [reply Mathlib/Order/Defs/Unbundled.lean:60]: Oops, this was from an old way of talking about them that we got rid of. Right. Yes, don't need these

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 6]
```diff
@@ -0,0 +1,171 @@
...
+theorem coeffList_nil (h : P.coeffList = []) : P = 0 := by
+  simp_all [coeffList]
+
+/-- coeffList (C x) = [x] -/
+@[simp]
+theorem coeffList_C {η : α} (h : η ≠ 0) : (C η).coeffList = [η] := by
+  simpa [coeffList, if_neg h, List.range_succ]
+
+/-- coeffList always starts with leadingCoeff -/
+theorem coeffList_eq_cons_leadingCoeff (h : P ≠ 0) :
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:61]: Added `List.head` and `List.head?`

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 7]
```diff
@@ -0,0 +1,171 @@
...
+    ∃(ls : List α), P.coeffList = P.leadingCoeff::ls := by
+  simp [coeffList, List.range_succ, h]
+
+/-- The length of the coefficient list is the degree. -/
+@[simp]
+theorem length_coeffList (P : α[X]) :
+    P.coeffList.length = if P.support = ∅ then 0 else P.natDegree + 1 := by
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:68]: So I actually did it with P.support instead of P = 0, so that this whole file can be done without needing DecidableEq α. So I'll keep this version (and name it `..._support`, but add a separate one with DecidableEq and a zero condition.

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 8]
```diff
@@ -0,0 +1,171 @@
...
+  constructor <;> {
+    intros
+    exact (Polynomial.eraseLead_coeff_of_ne _ (by linarith)).symm
+  }
+
+/- Coefficients of P are always the leading coefficient, some number of zeros, and then
+  `coeffList P.eraseLead`. -/
+theorem coeffList_eraseLead (h : P ≠ 0) : ∃ n, P.coeffList =
+    P.leadingCoeff::((List.replicate n 0)++P.eraseLead.coeffList) := by
+  by_cases hdp : P.natDegree = 0
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:112]: I don't see anything that I easily could. But changing get! and getElem! to getElem? did make the proof shorter, and I put in some work to try to do better parallel structure on the cases. It's a bit shorter now.

**Comment by Timeroot** [comment]
So the stuff in EraseLead and Unbundled was all from #9082 and #9083, which this was building on, it had just been so long I forgot which was where. I cleared that out from this commit

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 9]
```diff
@@ -0,0 +1,171 @@
...
+theorem coeffList_zero : (0 : α[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- only the zero polynomial gives nil list -/
+theorem coeffList_nil (h : P.coeffList = []) : P = 0 := by
+  simp_all [coeffList]
+
+/-- coeffList (C x) = [x] -/
+@[simp]
+theorem coeffList_C {η : α} (h : η ≠ 0) : (C η).coeffList = [η] := by
```
[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: Because this came out of another earlier project where I was following another given proof, and this was η -- so, no reason now. Changed to "x". :)

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (tb65536) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:109]: One option would be to split out the case where `P` is a monomial into a separate lemma (e.g., `coeffList_monomial`) and use that to shorten that branch of the proof.

[the remark this answers is not in the document]
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:120]: Alright, I split that off, it did get a bit better.

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 10]
```diff
@@ -367,6 +367,15 @@ theorem leadingCoeff_comp (hq : natDegree q ≠ 0) :
     leadingCoeff (p.comp q) = leadingCoeff p * leadingCoeff q ^ natDegree p := by
   rw [← coeff_comp_degree_mul_degree hq, ← natDegree_comp, coeff_natDegree]
 
+/-- When there are no zero divisors, multiplying a polynomial by a nonzero constant leaves the
+    degree unchanged. -/
+theorem natDegree_mul_of_nonzero (ha : a ≠ 0) : natDegree (C a * p) = p.natDegree := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:372]:
```suggestion
theorem natDegree_C_mul_of_nonzero (ha : a ≠ 0) : natDegree (C a * p) = p.natDegree := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 11]
```diff
@@ -0,0 +1,180 @@
...
+  · simp [coeffList_of_ne_zero hp, coeffList_of_ne_zero (neg_ne_zero.mpr hp)]
+
+end Ring
+section DivisionSemiring
+
+variable [DivisionSemiring α] (P : α[X])
+
+/-- Over a division semiring, multiplying a polynomial by a nonzero constant multiplies
+  the coefficient list. -/
+theorem coeffList_mul_C {x : α} (hη : x ≠ 0) : (C x * P).coeffList = P.coeffList.map (x * ·) := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:173]: This name suggests that you are multiplying with `C x` on the right.
```suggestion
theorem coeffList_C_mul {x : α} (hη : x ≠ 0) : (C x * P).coeffList = P.coeffList.map (x * ·) := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 12]
```diff
@@ -0,0 +1,175 @@
...
+## Definition
+
+* `coeffList f`: a `List` of the coefficients, from leading term down to constant term.
+* `coeffList 0` is defined to be `[]`.
+
+This is useful for talking about polynomials in terms of list operations, and applying list theorems
+to them, instead of working with `Finsupp` structures.
+
+The most significant theorem here is `coeffList_eraseLead`, which says that `coeffList P` can be
+written as `(leadingCoeff P) :: (List.replicate k 0) ++ (coeffList P.eraseLead)`. That is, the list
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:22]:
```suggestion
written as `leadingCoeff P :: List.replicate k 0 ++ coeffList P.eraseLead`. That is, the list
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 13]
```diff
@@ -0,0 +1,175 @@
...
+
+variable {α : Type*}
+
+section Semiring
+
+variable [Semiring α]
+
+/-- A list of coefficients starting from the leading term down to the constant term. Defining
+this with P.support keeps it computable, even if the base ring doesn't have DecidableEq.
+-/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:38]:
```suggestion
/-- The list of coefficients of a polynomial starting from the leading term down to the constant
term.

Defining this using `P.support` keeps it computable, even if the base ring doesn't have
`DecidableEq`. -/
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 14]
```diff
@@ -0,0 +1,175 @@
...
+def coeffList (P : α[X]) : List α :=
+  if P.support = ∅ then [] else (List.range (P.natDegree+1)).reverse.map P.coeff
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:40]: Isn't this the same as
```suggestion
  (List.range P.degree.succ).reverse.map P.coeff
```
? meaning you don't need to do any case split

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 15]
```diff
@@ -0,0 +1,175 @@
...
+
+variable {P : α[X]}
+
+theorem coeffList_of_ne_zero (h : P ≠ 0) :
+    P.coeffList = (List.range (P.natDegree+1)).reverse.map P.coeff := by
+  rw [coeffList, if_neg (mt support_eq_empty.mp h)]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:46]: Then this lemma is probably useless

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 16]
```diff
@@ -0,0 +1,175 @@
...
+
+variable (α) in
+@[simp]
+theorem coeffList_zero : (0 : α[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- Only the zero polynomial gives nil coeffList -/
+@[simp]
+theorem coeffList_eq_nil_iff (P : α[X]) : P.coeffList = [] ↔ P = 0 :=
+  ⟨by simp_all [coeffList], (· ▸ coeffList_zero α)⟩
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:56]: and this can be proved by
```suggestion
theorem coeffList_eq_nil_iff (P : α[X]) : P.coeffList = [] ↔ P = 0 := by simp [coeffList]
```
or something similar

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 17]
```diff
@@ -0,0 +1,175 @@
...
+theorem coeffList_C {x : α} (h : x ≠ 0) : (C x).coeffList = [x] := by
+  simpa [coeffList, if_neg h, List.range_succ]
+
+/-- coeffList always starts with leadingCoeff -/
+theorem coeffList_eq_cons_leadingCoeff (h : P ≠ 0) :
+    ∃ ls, P.coeffList = P.leadingCoeff :: ls := by
+  simp [coeffList, List.range_succ, h]
+
+/-- `List.head?` of coeffList is leadingCoeff -/
+theorem head?_coeffList_eq_leadingCoeff (h : P ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:68]: I think it's quite clear what the RHS is?
```suggestion
theorem head?_coeffList (h : P ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 18]
```diff
@@ -0,0 +1,175 @@
...
+    P.coeffList.head? = P.leadingCoeff :=
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ ↦ (Eq.symm · ▸ rfl)
+
+/-- `List.head` of coeffList is leadingCoeff -/
+theorem head_coeffList_eq_leadingCoeff (h : P ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:73]:
```suggestion
theorem head_coeffList (h : P ≠ 0) :
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 19]
```diff
@@ -0,0 +1,175 @@
...
+    P.coeffList.head ((coeffList_eq_nil_iff P).not.mpr h) = P.leadingCoeff :=
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ _ ↦
+    Option.some.injEq _ _ ▸ List.head?_eq_head _ ▸ head?_coeffList_eq_leadingCoeff h
+
+/-- The length of the coefficient list is the degree plus one, or zero if P has empty support. -/
+theorem length_coeffList_support (P : α[X]) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:79]:
```suggestion
theorem length_coeffList (P : α[X]) :
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 20]
```diff
@@ -0,0 +1,175 @@
...
+    P.coeffList.length = if P.support = ∅ then 0 else P.natDegree + 1 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:80]: Similarly,
```suggestion
    P.coeffList.length = P.degree.succ := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 21]
```diff
@@ -0,0 +1,175 @@
...
+
+/-- The length of the coefficient list is the degree plus one, or zero if P is zero. -/
+@[simp]
+theorem length_coeffList [DecidableEq α] (P : α[X]) :
+    P.coeffList.length = if P = 0 then 0 else P.natDegree + 1 := by
+  simp [length_coeffList_support]
+
+/-- If the `P.nextCoeff ≠ 0`, then the tail of `P.coeffList` is `coeffList P.eraseLead`.-/
+theorem coeffList_of_nextCoeff_ne_zero (h : P.nextCoeff ≠ 0) :
+    P.coeffList = P.leadingCoeff::P.eraseLead.coeffList := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:91]:
```suggestion
theorem leadingCoeff_cons_eraseLead (h : P.nextCoeff ≠ 0) :
    P.leadingCoeff :: P.eraseLead.coeffList = P.coeffList := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 22]
```diff
@@ -0,0 +1,175 @@
...
+  simp only [coeffList, natDegree_eraseLead_add_one h, mt nextCoeff_eq_zero_of_eraseLead_eq_zero h,
+    ne_zero_of_natDegree_gt (natDegree_pos_of_nextCoeff_ne_zero h), true_and,
+    support_eq_empty, ↓reduceIte, List.range_succ, List.reverse_append, List.reverse_cons,
+    List.reverse_nil, List.nil_append, List.cons_append, List.map_cons, List.map_reverse,
+    List.cons.injEq, List.reverse_inj, List.map_inj_left, List.mem_range, coeff_natDegree]
+  intros
+  exact (Polynomial.eraseLead_coeff_of_ne _ (by linarith)).symm
+
+theorem coeffList_monomial {x : α} (hx : x ≠ 0) (n : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:100]: That can probably be simp?

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 23]
```diff
@@ -0,0 +1,175 @@
...
+  · exact (coeffList_eq_cons_leadingCoeff h).rec (by simp_all)
+  · rw [List.length_cons, List.length_replicate] at h₁
+    simpa [coeffList_of_ne_zero h, List.map_reverse, List.getElem_reverse]
+      using Polynomial.coeff_monomial_of_ne _
+        (have := Polynomial.natDegree_monomial_eq n hx; by omega)
+
+/- Coefficients of P are always the leading coefficient, some number of zeros, and then
+  `coeffList P.eraseLead`. -/
+theorem coeffList_eraseLead (h : P ≠ 0) : ∃ n, P.coeffList =
+    P.leadingCoeff :: ((List.replicate n 0) ++ P.eraseLead.coeffList) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:114]:
```suggestion
    P.leadingCoeff :: (.replicate n 0 ++ P.eraseLead.coeffList) := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 24]
```diff
@@ -0,0 +1,175 @@
...
+      congr 2
+      omega
+    · simpa using by omega
+
+end Semiring
+section Ring
+variable [Ring α] (P : α[X])
+
+/-- The coefficient list is negated if the polynomial is negated. --/
+theorem coeffList_neg : (-P).coeffList = P.coeffList.map (-·) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:156]:
```suggestion
@[simp] theorem coeffList_neg : (-P).coeffList = P.coeffList.map (-·) := by
```
maybe?

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 25]
```diff
@@ -0,0 +1,175 @@
...
+  · rw [hp, coeffList_zero, neg_zero, coeffList_zero, List.map_nil]
+  · simp [coeffList_of_ne_zero hp, coeffList_of_ne_zero (neg_ne_zero.mpr hp)]
+
+end Ring
+section DivisionSemiring
+
+variable [DivisionSemiring α] (P : α[X])
+
+/-- Over a division semiring, multiplying a polynomial by a nonzero constant multiplies
+  the coefficient list. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:167]:
```suggestion
the coefficient list. -/
```

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 26]
```diff
@@ -367,6 +367,15 @@ theorem leadingCoeff_comp (hq : natDegree q ≠ 0) :
     leadingCoeff (p.comp q) = leadingCoeff p * leadingCoeff q ^ natDegree p := by
   rw [← coeff_comp_degree_mul_degree hq, ← natDegree_comp, coeff_natDegree]
 
+/-- When there are no zero divisors, multiplying a polynomial by a nonzero constant leaves the
+    degree unchanged. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:371]:
```suggestion
 degree unchanged. -/
```

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 27]
```diff
@@ -367,6 +367,15 @@ theorem leadingCoeff_comp (hq : natDegree q ≠ 0) :
...
+theorem natDegree_C_mul_of_nonzero (ha : a ≠ 0) : natDegree (C a * p) = p.natDegree := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:372]: This is already `natDegree_C_mul`

**Review by YaelDillies — COMMENTED** [review]
Thank you for the PR! Here are a few comments. Note that you might need to merge master to access `WithBot.succ`.

Could you please also explain why
1. You want this as a list rather than eg a sequence or finite sequence
2. It should go downward rather than upward

**Comment by Timeroot** [comment]
Thanks for the review, I'll get through them today/tomorrow I expect. The main reason I wanted it as a list is because I was primarily concerned with the effect of `eraseLead`, multiplying by linear functions, etc. which I think are most naturally viewed as a list (equivalent to taking a tail of a list, etc.). I wanted it "downward" because this matches, imo, mathematical convention: we talk about the _leading_ coefficient, and erase_Lead_, and this makes sense to have this at the _head_ of the list. It's also more awkward to talk about dropping the last element of a list as opposed to dropping the first.

If you strongly feel that one of these is the wrong decision, let me know and I can look at changing it, but I think this is the most natural form

**Comment by YaelDillies** [comment]
I don't feel very strongly either way, but I do feel very strongly that this should be documented somewhere! Maybe this could go in the docstring of `coeffList`?

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 15 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:46]: Even without the change this turned out to be essentially just always solved immediately by simp

**Comment by Timeroot** [comment]
I integrated the feedback, but I didn't change it to `WithBot.succ` ... I think it makes it messier in a number of ways. (Like, I think there's more API around the support and natDegree that simplifies out nicely?) I could be convinced otherwise but when I tried it, it wasn't looking very friendly

**Comment by YaelDillies** [comment]
I introduced `WithBot.succ` a month ago 😅 so I think it's worth trying to add API if you see some missing. Do you have concrete painpoint examples?

**Comment by Timeroot** [comment]
Haha, alright. 😄 How about this?

File: Mathlib/Order/SuccPred/WithBot.lean [hunk 28]
```diff
@@ -39,6 +39,21 @@ lemma succ_strictMono [NoMaxOrder α] : StrictMono (succ : WithBot α → α)
 @[gcongr] lemma succ_le_succ (hxy : x ≤ y) : x.succ ≤ y.succ := succ_mono hxy
 @[gcongr] lemma succ_lt_succ [NoMaxOrder α] (hxy : x < y) : x.succ < y.succ := succ_strictMono hxy
 
+section LinearOrder
+
+variable {α : Type*} [Nontrivial α] [LinearOrder α] [OrderBot α] [SuccOrder α]
+
+@[simp]
+theorem succ_zero_iff (a : WithBot α) : WithBot.succ a = ⊥ ↔ a = ⊥ := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/WithBot.lean:47]:
```suggestion
theorem succ_eq_bot {a : WithBot α} : WithBot.succ a = ⊥ ↔ a = ⊥ := by
```
I think you should add another simp lemma `succ_eq_zero {a : WithBot α} : WithBot.succ a = 0 ↔ a = ⊥` in `Algebra.Order.SuccPred`

File: Mathlib/Data/Nat/SuccPred.lean [hunk 29]
```diff
@@ -87,3 +89,9 @@ theorem Fin.coe_covBy_iff {n : ℕ} {a b : Fin n} : (a : ℕ) ⋖ b ↔ a ⋖ b
   and_congr_right' ⟨fun h _c hc => h hc, fun h c ha hb => @h ⟨c, hb.trans b.prop⟩ ha hb⟩
 
 alias ⟨_, CovBy.coe_fin⟩ := Fin.coe_covBy_iff
+
+@[simp]
+theorem WithBot_succ_zero : WithBot.succ 0 = 1 := rfl
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/SuccPred.lean:94]:
```suggestion
theorem withBotSucc_zero : WithBot.succ 0 = 1 := rfl
```
Same below

File: Mathlib/Algebra/Polynomial/Degree/Definitions.lean [hunk 30]
```diff
@@ -241,6 +243,11 @@ theorem degree_X_le : degree (X : R[X]) ≤ 1 :=
 theorem natDegree_X_le : (X : R[X]).natDegree ≤ 1 :=
   natDegree_le_of_degree_le degree_X_le
 
+@[simp]
+theorem degree_succ_eq_natDegree_succ (h : p ≠ 0) : p.degree.succ = p.natDegree + 1 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Degree/Definitions.lean:247]:
```suggestion
theorem withBotSucc_degree_eq_natDegree_add_one (h : p ≠ 0) : p.degree.succ = p.natDegree + 1 := by
```

Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Degree/Definitions.lean:247]: I'm not sure that should be a simp lemma?

File: Mathlib/Algebra/Polynomial/Degree/Definitions.lean [hunk 31]
```diff
@@ -241,6 +243,11 @@ theorem degree_X_le : degree (X : R[X]) ≤ 1 :=
...
+  rw [degree_eq_natDegree h]
+  exact WithBot.succ_coe (p.natDegree)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/Degree/Definitions.lean:249]:
```suggestion
  exact WithBot.succ_coe p.natDegree
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 32]
```diff
@@ -0,0 +1,179 @@
...
+
+variable (α) in
+@[simp]
+theorem coeffList_zero : (0 : α[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- Only the zero polynomial gives nil coeffList -/
+@[simp]
+theorem coeffList_eq_nil_iff (P : α[X]) : P.coeffList = [] ↔ P = 0 := by
+  simp [coeffList, ←bot_eq_zero', -Nat.bot_eq_zero]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:63]: I think you should add another simp lemma `succ_eq_zero {a : WithBot α} : WithBot.succ a = 0 ↔ a = ⊥` in `Algebra.Order.SuccPred` (which you can create in case it doesn't exist already. Then this will become
```suggestion
  simp [coeffList]
```

**Review by YaelDillies — COMMENTED** [review]
Thanks for trying harder!

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 33]
```diff
@@ -0,0 +1,181 @@
...
+`Polynomial.leadingCoeff`.
+
+The most significant theorem here is `coeffList_eraseLead`, which says that `coeffList P` can be
+written as `leadingCoeff P :: List.replicate k 0 ++ coeffList P.eraseLead`. That is, the list
+of coefficients starts with the leading coefficient, followed by some number of zeros, and then the
+coefficients of `P.eraseLead`.
+-/
+open Polynomial
+
+namespace Polynomial
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:37]:
```suggestion

namespace Polynomial
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 34]
```diff
@@ -0,0 +1,181 @@
...
+variable {P : α[X]}
+
+variable (α) in
+@[simp]
+theorem coeffList_zero : (0 : α[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- Only the zero polynomial gives nil coeffList -/
+@[simp]
+theorem coeffList_eq_nil_iff (P : α[X]) : P.coeffList = [] ↔ P = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:62]:
```suggestion
theorem coeffList_eq_nil {P : α[X]} : P.coeffList = [] ↔ P = 0 := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 35]
```diff
@@ -0,0 +1,181 @@
...
+  · rw [List.length_cons, List.length_replicate] at h₁
+    have : ((monomial n) x).natDegree.succ = n + 1 := by
+      simp [Polynomial.natDegree_monomial_eq n hx]
+    simpa [coeffList, withBotSucc_degree_eq_natDegree_add_one h]
+      using Polynomial.coeff_monomial_of_ne _ (by omega)
+
+/- Coefficients of P are always the leading coefficient, some number of zeros, and then
+  `coeffList P.eraseLead`. -/
+theorem coeffList_eraseLead (h : P ≠ 0) : ∃ n, P.coeffList =
+    P.leadingCoeff :: (.replicate n 0 ++ P.eraseLead.coeffList) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:116]: Can you strengthen
```suggestion
theorem coeffList_eraseLead (h : P ≠ 0) :
    P.leadingCoeff :: (.replicate (P.natDegree - P.degree.succ) 0 ++ P.eraseLead.coeffList) := by
```
?

File: Mathlib/Order/SuccPred/WithBot.lean [hunk 36]
```diff
@@ -69,4 +84,19 @@ lemma pred_strictMono [NoMinOrder α] : StrictMono (pred : WithTop α → α)
 @[gcongr] lemma pred_le_pred (hxy : x ≤ y) : x.pred ≤ y.pred := pred_mono hxy
 @[gcongr] lemma pred_lt_pred [NoMinOrder α] (hxy : x < y) : x.pred < y.pred := pred_strictMono hxy
 
+section LinearOrder
+
+variable {α : Type*} [Nontrivial α] [LinearOrder α] [OrderTop α] [PredOrder α]
+
+@[simp]
+theorem succ_zero_iff (a : WithTop α) : WithTop.pred a = ⊤ ↔ a = ⊤ := by
```
Comment (YaelDillies) [inline Mathlib/Order/SuccPred/WithBot.lean:92]: You forgot this one

Comment (Timeroot) [reply Mathlib/Order/SuccPred/WithBot.lean:92]: Not sure what you mean, forgot what?

Comment (YaelDillies) [reply Mathlib/Order/SuccPred/WithBot.lean:92]:
```suggestion
theorem pred_eq_top {a : WithTop α} : WithTop.pred a = ⊤ ↔ a = ⊤ := by
```
;)

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 37]
```diff
@@ -0,0 +1,183 @@
...
+variable {P : α[X]}
+
+variable (α) in
+@[simp]
+theorem coeffList_zero : (0 : α[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- Only the zero polynomial gives nil coeffList -/
+@[simp]
+theorem coeffList_eq_nil (P : α[X]) : P.coeffList = [] ↔ P = 0 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:61]: Iffs should mostly have implicit arguments
```suggestion
theorem coeffList_eq_nil {P : α[X]} : P.coeffList = [] ↔ P = 0 := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 38]
```diff
@@ -0,0 +1,183 @@
...
+        List.getElem?_range (by omega), Option.map_some']
+      congr 2
+      omega
+    · simpa using by omega
+
+end Semiring
+section Ring
+variable [Ring α] (P : α[X])
+
+/-- The coefficient list is negated if the polynomial is negated. --/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:163]: Careful! This will add a `-` at the end of your docstring.
```suggestion
/-- The coefficient list is negated if the polynomial is negated. -/
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 39]
```diff
@@ -0,0 +1,183 @@
...
+/-- `List.head` of coeffList is leadingCoeff -/
+theorem head_coeffList (h : P ≠ 0) :
+    P.coeffList.head (coeffList_eq_nil.not.mpr h) = P.leadingCoeff :=
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ _ ↦
+    Option.some.injEq _ _ ▸ List.head?_eq_head _ ▸ head?_coeffList h
+
+/-- The length of the coefficient list is the degree plus one, or zero if P is zero. -/
+@[simp]
+theorem length_coeffList [DecidableEq α] (P : α[X]) :
+    P.coeffList.length = if P = 0 then 0 else P.natDegree + 1 := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:87]:
```suggestion
    P.coeffList.length = P.degree.succ := by
```
is better, don't you think?

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 40]
```diff
@@ -0,0 +1,183 @@
...
+  simp [coeffList, List.range_succ, withBotSucc_degree_eq_natDegree_add_one h]
+
+/-- `List.head?` of coeffList is leadingCoeff -/
+theorem head?_coeffList (h : P ≠ 0) :
+    P.coeffList.head? = P.leadingCoeff :=
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ ↦ (Eq.symm · ▸ rfl)
+
+/-- `List.head` of coeffList is leadingCoeff -/
+theorem head_coeffList (h : P ≠ 0) :
+    P.coeffList.head (coeffList_eq_nil.not.mpr h) = P.leadingCoeff :=
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:80]: Hypotheses appearing in the LHS needn't be considered when deciding which arguments should be explicit
```suggestion
@[simp] theorem head_coeffList (P : α[X]) (hP) : P.coeffList.head hP = P.leadingCoeff :=
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 41]
```diff
@@ -0,0 +1,183 @@
...
+
+The most significant theorem here is `coeffList_eraseLead`, which says that `coeffList P` can be
+written as `leadingCoeff P :: List.replicate k 0 ++ coeffList P.eraseLead`. That is, the list
+of coefficients starts with the leading coefficient, followed by some number of zeros, and then the
+coefficients of `P.eraseLead`.
+-/
+
+namespace Polynomial
+
+variable {α : Type*}
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:38]:
```suggestion
variable {R : Type*}
```
would read much better, other maintainers have argued

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 40 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:80]: Oh, that's much cleaner, nice

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 41 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:38]: Alright! I'm fine changing it (and don't have any preference myself), is there somewhere I can read more about what are "preferred" names and for what reasons? Like is this something specific to Polynomial where calling the ring `R` makes `R[X]` better to read?

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 39 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:92]: Sure, looks good enough for now

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 41 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: No, it's a general rule that `α` is reserved for types with no structure assumption, while `M` is a monoid, `G` a group, `G₀` a group with zero, `R` a ring, etc... I don't a specific reference in mind, but searching Zulip or bugging Kevin will let you learn more

Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: Oh, that makes sense, yeah

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 42]
```diff
@@ -0,0 +1,187 @@
...
+
+section Semiring
+
+variable [Semiring R]
+
+/-- The list of coefficients starting from the leading term down to the constant term.
+
+Defining this with `P.support` keeps it computable, even if the base ring doesn't have
+`DecidableEq`.
+-/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:48]:
```suggestion
/-- The list of coefficients starting from the leading term down to the constant term. -/
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 43]
```diff
@@ -0,0 +1,187 @@
...
+  (List.range P.degree.succ).reverse.map P.coeff
+
+variable {P : R[X]}
+
+variable (R) in
+@[simp]
+theorem coeffList_zero : (0 : R[X]).coeffList = [] := by
+  simp [coeffList]
+
+/-- Only the zero polynomial gives nil coeffList -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:59]:
```suggestion
/-- Only the zero polynomial has no coefficients. -/
```
maybe?

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 44]
```diff
@@ -0,0 +1,187 @@
...
+
+/-- The length of the coefficient list is the degree plus one, or zero if P is zero. -/
+@[simp]
+theorem length_coeffList_ite [DecidableEq R] (P : R[X]) :
+    P.coeffList.length = if P = 0 then 0 else P.natDegree + 1 := by
+  by_cases h : P = 0 <;> simp [h, coeffList, withBotSucc_degree_eq_natDegree_add_one]
+
+/-- If the `P.nextCoeff ≠ 0`, then the tail of `P.coeffList` is `coeffList P.eraseLead`.-/
+theorem leadingCoeff_cons_eraseLead (h : P.nextCoeff ≠ 0) :
+    P.leadingCoeff :: P.eraseLead.coeffList = P.coeffList := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:96]: This is not what the lemma actually says. In general, I find docstrings that simply repeat the statement with informal connectives but formal objects ("`fancyObject` is equal to `mysteriousObject`") to be of low value. Can you either:
* delete them
* Also write the objects informally ("The fancy object is equal to the mysterious object.") as far as reasonable

Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:96]: Makes sense, yeah

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: Do you want to change the docstrings then? There are still plenty of uninformative docstrings in your new code

Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: Yeah fair. I guess there's really just only a couple that are not immediately equivalent to the statement given. How's this you think?

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean]: Looks good, yes!

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 45]
```diff
@@ -0,0 +1,175 @@
...
+  rintro (_|k) _ h₁
+  · exact (coeffList_eq_cons_leadingCoeff h).rec (by simp_all)
+  · rw [List.length_cons, List.length_replicate] at h₁
+    have : ((monomial n) x).natDegree.succ = n + 1 := by
+      simp [Polynomial.natDegree_monomial_eq n hx]
+    simpa [coeffList, withBotSucc_degree_eq_natDegree_add_one h]
+      using Polynomial.coeff_monomial_of_ne _ (by omega)
+
+/- Coefficients of P are always the leading coefficient, some number of zeros, and then
+  `coeffList P.eraseLead`. -/
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:108]:
```suggestion
`coeffList P.eraseLead`. -/
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 46]
```diff
@@ -0,0 +1,175 @@
...
+theorem coeffList_eraseLead (h : P ≠ 0) : P.coeffList =
+    P.leadingCoeff :: (.replicate (P.natDegree - P.eraseLead.degree.succ) 0
+     ++ P.eraseLead.coeffList) := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:111]: Please start multi-line statements on a new line
```suggestion
theorem coeffList_eraseLead (h : P ≠ 0) :
    P.coeffList =
      P.leadingCoeff :: (.replicate (P.natDegree - P.eraseLead.degree.succ) 0
       ++ P.eraseLead.coeffList) := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 47]
```diff
@@ -0,0 +1,175 @@
...
+    P.coeffList.head hP = P.leadingCoeff :=
+  let h := coeffList_eq_nil.not.mp hP
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ _ ↦
+    Option.some.injEq _ _ ▸ List.head?_eq_head _ ▸ head?_coeffList h
+
+theorem length_coeffList_withBotSucc (P : R[X]) : P.coeffList.length = P.degree.succ := by
+  simp [coeffList]
+
+@[simp]
+theorem length_coeffList_ite [DecidableEq R] (P : R[X]) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:82]:
```suggestion
theorem length_coeffList_eq_ite [DecidableEq R] (P : R[X]) :
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 48]
```diff
@@ -0,0 +1,175 @@
...
+    P.coeffList.head? = P.leadingCoeff :=
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ ↦ (Eq.symm · ▸ rfl)
+
+@[simp] theorem head_coeffList (P : R[X]) (hP) :
+    P.coeffList.head hP = P.leadingCoeff :=
+  let h := coeffList_eq_nil.not.mp hP
+  (coeffList_eq_cons_leadingCoeff h).casesOn fun _ _ ↦
+    Option.some.injEq _ _ ▸ List.head?_eq_head _ ▸ head?_coeffList h
+
+theorem length_coeffList_withBotSucc (P : R[X]) : P.coeffList.length = P.degree.succ := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:78]:
```suggestion
theorem length_coeffList_eq_withBotSucc_degree (P : R[X]) : P.coeffList.length = P.degree.succ := by
```

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 49]
```diff
@@ -0,0 +1,175 @@
...
+
+@[simp]
+theorem coeffList_C {x : R} (h : x ≠ 0) : (C x).coeffList = [x] := by
+  simp [coeffList, h, List.range_succ, degree_eq_natDegree (C_ne_zero.mpr h)]
+
+theorem coeffList_eq_cons_leadingCoeff (h : P ≠ 0) :
+    ∃ ls, P.coeffList = P.leadingCoeff :: ls := by
+  simp [coeffList, List.range_succ, withBotSucc_degree_eq_natDegree_add_one h]
+
+theorem head?_coeffList (h : P ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:68]: Simp?

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 46 above)
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:111]: Given the name, did you mean for the equality to be the other way around?

File: Mathlib/Algebra/Polynomial/CoeffList.lean [hunk 50]
```diff
@@ -0,0 +1,175 @@
...
+/-- Only the zero polynomial has no coefficients. -/
+@[simp]
+theorem coeffList_eq_nil {P : R[X]} : P.coeffList = [] ↔ P = 0 := by
+  simp [coeffList]
+
+@[simp]
+theorem coeffList_C {x : R} (h : x ≠ 0) : (C x).coeffList = [x] := by
+  simp [coeffList, h, List.range_succ, degree_eq_natDegree (C_ne_zero.mpr h)]
+
+theorem coeffList_eq_cons_leadingCoeff (h : P ≠ 0) :
```
Comment (YaelDillies) [inline Mathlib/Algebra/Polynomial/CoeffList.lean:64]:
```suggestion
private theorem coeffList_eq_cons_leadingCoeff (h : P ≠ 0) :
```
since it's strengthened by `coeffList_eraseLead`

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 49 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:68]: I'm never clear on when a theorem with sideconditions (like P \ne 0) is an "okay" simp lemma. Like, when simp can be expected to find that condition/use that condition or not.

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 50 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:64]: How important is that? I mean, I realize that `coeffList_eraseLead` is stronger; but also the expression is a lot more complicated. I can imagine that sometimes (where I don't care about the content of `ls`) I would prefer to use this as it keeps my goal state cleaner.

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 49 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:68]: Simple conditions like `P ≠ 0` are usually fine, they will often come from a case split

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 50 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:64]: I don't know! I guess it depends on your application.

Note that you can always do `generalize (.replicate (P.natDegree - P.eraseLead.degree.succ) 0 ++ P.eraseLead.coeffList) with ls` if you use `coeffList_eraseLead`

Comment (jcommelin) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:64]: I don't think this has to be `private`.

Comment (YaelDillies) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:64]: even though `coeffList_eraseLead` is strictly stronger?

Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:64]: I think the `coeffList_eraseLead` is, in comparison, such a relatively ugly (or at least complicated) statement that I know I (as a user) would enjoy having the simpler statement available.

I think you could compare it with statements like [asymptotics](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/SpecialFunctions/Stirling.html#Stirling.log_stirlingSeq_bounded_aux) where there is an explicit constant one could give, but it makes things uglier enough that we usually don't want/need it.

File: Mathlib/Algebra/Polynomial/CoeffList.lean (hunk 46 above)
Comment (Timeroot) [reply Mathlib/Algebra/Polynomial/CoeffList.lean:111]: I feel like it reads better this way, myself. It would need to be the other way to be `simp` of course, but I can't conceive of this ever just "conveniently" being simplified

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

**Comment by jcommelin** [comment]
bors d+
